US05891889
Step B: N-t-Butoxycarbonyl isonipecotic acid methyl ester
To an ice cold solution of N-t-butoxycarbonyl isonipecotic acid (8.8 g, 34.9 mmol), in a 10% mixture of methanol in benzene (250 ml), was added a 2.0M solution of trimethylsilyldiazomethane in hexanes, dropwise, until a consistent yellow color was obtained (~30 ml). After vigorous gas evolution had ceased, the reaction mixture was stirred for 1 hr at room temperature. The mixture was then treated dropwise with glacial acetic acid until the yellow color had dissipated. The reaction was stirred 15 min. and concentrated in vacuo to a pale yellow oil. The residue was purified by chromatography (SiO2, eluting with 20% EtOAc in hexanes). Evaporation of the solvent in vacuo afforded the product as a colorless oil.

reactant | N-t-butoxycarbonyl isonipecotic acid | 34.9 mmol, 8.8 g | C(C)(C)(C)OC(=O)N1CCC(C(=O)O)CC1 | C11H19NO4
reactant | methanol | CO | CH4O
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | N-t-Butoxycarbonyl isonipecotic acid methyl ester | COC(C1CCN(CC1)C(=O)OC(C)(C)C)=O | C12H21NO4
